US05576324
To 3-formyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (1.0 g) in methanol (80 ml), sodium borohydride (1.0 g) was added and stirred at room temperature for 30 minutes. After completion of the reaction, water was added and extracted with chloroform-methanol (4:1). The extract was dried and the solvent was evaporated. The residue was recrystallized from methanol-ether to obtain 0.59 g of 3-hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one was obtained as colorless needles (58.5%).

reactant | 3-formyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 1.0 g | C(=O)C1COC2=C3C=CC(NC3=C(C=C21)C)=O | C13H11NO3
reactant | sodium borohydride | 1.0 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | 3-hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 0.59 g | OCC1COC2=C3C=CC(NC3=C(C=C21)C)=O | C13H13NO3
